US09079853B2
5-chloro-3-hydroxy-1-isobutyl-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)indolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one from 5-chloro-1-isobutylindoline-2,3-dione and 1-(6-methoxypyridin-2-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 7.75 (m, 1H), 7.67 (d, 1H), 7.35 (d, 1H), 7.29 (d, 1H), 7.00 (dd, 1H), 6.79 (d, 1H) 5.40 (bs, OH), 4.00 (m, 4H), 3.57-3.43 (m, 3H), 2.14 (m, 1H), 0.97 (dd, 6H). calculated mass for C20H21N2O4, 388.12, observed, 389.1 (M+1).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-chloro-1-isobutylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC(C)C)=O)=O | C12H12ClNO2
reactant | 1-(6-methoxypyridin-2-yl)ethanone | COC1=CC=CC(=N1)C(C)=O | C8H9NO2
product | 5-chloro-3-hydroxy-1-isobutyl-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)indolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CC(C)C)=O)(CC(=O)C1=NC(=CC=C1)OC)O | C20H21ClN2O4
